US08067408B2
3′-({[(1,1-Dimethylethyl)(dimethyl)silyl]oxy}methyl)-5-fluoro-3-biphenylcarbonitrile
3-Bromo-5-fluorobenzonitrile (5.00 g, 25.0 mmol), Pd(OAc)2 (0.15 g), PPh3 (0.60 g) and K2CO3 (5.18 g, 37.5 mmol) were dissolved in dioxane (60 mL). The mixture was heated at 70° C. for 30 min, then [3-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)phenyl]boronic acid (7.99 g, 30.0 mmol) was added. The mixture reaction was stirred at reflux overnight. The solvent was removed under reduced pressure, then diluted with CH2Cl2 (100 mL). The organic layer was washed with water (50 mL) and brine (50 mL). And the organic layer was dried over Na2SO4. The product 3′-({[(1,1-dimethylethyl) (dimethyl)silyl]oxy}methyl)-5-fluoro-3-biphenylcarbonitrile (5.10 g, 60%) was purified by flash column chromatography. 1H NMR (400 MHz, CDCl3): δ 7.67 (t, J=5.2 Hz, 1 H), 7.54-7.32 (m, 5 H), 4.81 (s, 2 H), 0.94 (s, 9 H), 0.13 (s, 6 H).

reactant | 3-Bromo-5-fluorobenzonitrile | 25.0 mmol, 5.00 g | BrC=1C=C(C#N)C=C(C1)F | C7H3BrFN
reactant | PPh3 | 0.60 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | K2CO3 | 37.5 mmol, 5.18 g | C(=O)([O-])[O-].[K+].[K+]
reactant | [3-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)phenyl]boronic acid | 30.0 mmol, 7.99 g | CC(C)(C)[Si](OCC=1C=C(C=CC1)B(O)O)(C)C | C13H23BO3Si
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.15 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3′-({[(1,1-Dimethylethyl)(dimethyl)silyl]oxy}methyl)-5-fluoro-3-biphenylcarbonitrile | CC(C)(C)[Si](OCC=1C=C(C=CC1)C1=CC(=CC(=C1)F)C#N)(C)C | C20H24FNOSi
